US05470878
To 1-(5,6-dihydroxyhexyl)-3,7-dimethylxanthine (1.0 g, 3.38 mmol) was added 30% hydrogen bromide-acetic acid (3.4 mL) over 30 seconds and then stirred until all of the solid had dissolved (2.5 hours). The solution was poured carefully over a mixture of sodium bicarbonate (12 g) and ice water (50 ml). After carbon dioxide evolution had subsided, the mixture was extracted with dichloromethane (3×25 ml). The combined extracts were dried over magnesium sulfate and the solvent was evaporated under vacuum to give 1-(5-acetoxy-6-bromohexyl)-3,7-dimethylxanthine (1.3 g, 96% yield) as a viscous oil which was dissolved in methanol (5 mL). A 1M solution of sodium methoxide in methanol (3.9 ml) was added over 30 seconds. After stirring for 20 minutes, the solution was treated with water (20 ml) and then extracted with dichloromethane (3×15 ml). The combined extracts were dried over magnesium sulfate and the solvents were evaporated under vacuum to give 1-(5,6-oxidohexyl)-3,7-dimethylxanthine (900 mg, 100% yield) as white crystals.

reactant | 1-(5,6-dihydroxyhexyl)-3,7-dimethylxanthine | 3.38 mmol, 1.0 g | OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C13H20N4O4
reactant | hydrogen bromide acetic acid | 3.4 mL | Br.C(C)(=O)O
reactant | sodium bicarbonate | 12 g | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
product | 1-(5-acetoxy-6-bromohexyl)-3,7-dimethylxanthine | 1.3 g, 96% yield | C(C)(=O)OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C15H21BrN4O4
